US07691877B2
4-Methyl-3-oxo-pentanoic acid
Ethyl isobutyrylacetic acid (21 g, 132 mmol) was taken up in a 1.5M sodium hydroxide solution (15 g in 250 mL water) and stirred at room temperature over 16 h. The solution was cooled to 0° C. in an ice bath and was then acidified with 35 mL conc. Hydrochloric acid to pH 1-2. The resulting solution was saturated with sodium chloride and was then extracted with ethyl acetate (3×300 mL). The combined extracts were dried over sodium sulfate and then filtered and concentrated in vacuo to give the title compound as a clear oil (16.4 g, 95%).

reactant | Ethyl isobutyrylacetic acid | 132 mmol, 21 g | C(C)C(C(=O)O)C(C(C)C)=O | C8H14O3
reactant | Hydrochloric acid | 35 mL | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | sodium hydroxide | 1.5M, 250 mL, 15 g | [OH-].[Na+]
product | 4-Methyl-3-oxo-pentanoic acid | 16.4 g, 95% | CC(C(CC(=O)O)=O)C | C6H10O3
